US05605914
A stirred mixture 3-amino-3-phenylpropionic acid and cis-1,2-cyclohexanedicarboxylic anhydride in 10 mL of acetic acid under nitrogen was heated to reflux for 4 h and then allowed to cool to room temperature. The resulting mixture was concentrated to an orange yellow oil. This oil was crystallized from a 1/1 mixture of ethyl acetate/hexane to afford 1.77 g (58%) of 3-(cis-hexahydrophthalimido)-3-phenylpropionic acid as white crystals: 1H NMR (DMSO-d6) δ 12.45 (br s, 1 H, COOH), 7.33 (m, 5 H, Ph), 5.48 (dd, 1 H, J=6.3, 9.6, CH), 3.41 (dd, 1 H, J=16.5, 9.6 Hz), 3.14 (dd, 1H, J=16.5, 6.3 Hz), 2.50 (m, 2 H), 1.8-1.1 (m, 8 H); 13C NMR (DMSO-d6) δ 179.3, 179.2, 171.7, 138.7, 128.4, 127.5, 126.8, 50.1, 38.7, 38.6, 35.2, 23.0, 22.9, 21.1. Anal. Calcd for C17H19NO4. Theory: C, 67.76; H, 6.36; N, 4.65. Found: C, 67.52; H, 6.20; N, 4.60.

reactant | 3-amino-3-phenylpropionic acid | NC(CC(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | cis-1,2-cyclohexanedicarboxylic anhydride | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-(cis-hexahydrophthalimido)-3-phenylpropionic acid | 1.77 g, 58% | C1([C@H]2[C@@H](C(N1C(CC(=O)O)C1=CC=CC=C1)=O)CCCC2)=O | C17H19NO4
